US07423056B2
a.) 2-Benzyl-octahydro-isoindol-4-one (Scheme 8)
Benzyl-methoxymethyl-trimethylsilanylmethyl-amine (29.6 g, 0.12 mol) was added to a solution of cyclohex-2-enone (10 g, 0.104 mol) in 500 mL of dichloromethane at 0° C. followed by the dropwise addition of 10 mol % TFA dissolved in 2 mL of dichloromethane. The reaction mixture was stirred at room temperature overnight and was quenched with 50 mL of saturated NaHCO3. The organic layer was washed with 500 mL of brine, dried with MgSO4 and solvent was evaporated in vacuo to give the crude product that was purified by column chromatography (SiO2) using a 2-45% ethylacetate-hexane gradient to afford the subtitle compound. (13.8 g, 60%). MS calculated for C15H19NO+H: 230, observed: 230.

reactant | Benzyl-methoxymethyl-trimethylsilanylmethyl-amine | 0.12 mol, 29.6 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | cyclohex-2-enone | 0.104 mol, 10 g | C1(C=CCCC1)=O | C6H8O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-Benzyl-octahydro-isoindol-4-one | C(C1=CC=CC=C1)N1CC2CCCC(C2C1)=O | C15H19NO
